US04461906
18.1 g of 4-amino-3-hydroxy-butyric acid are dissolved in 176 ml of 2 N sodium hydroxide. To this there are added within 2 minutes 14.0 g of 3-benzoyloxy-4-methoxybenzoylchloride and subsequently 30 ml of tetrahydrofuran. The mixture is stirred intensively at room temperature for 2 hours, then treated with ice and acidified with concentrated hydrochloric acid. The separated solid is filtered off and washed with water. After drying, the filter cake is boiled in ethyl acetate and the insoluble portion is recrystallised from tetrahydrofuran/n-hexane (3.6:1). There is obtained 4-[(3-benzyloxy-4-methoxybenzoyl)amino]-3-hydroxy-butyric acid of melting point 158°-160° C.

reactant | 4-amino-3-hydroxy-butyric acid | 18.1 g | NCC(CC(=O)O)O | C4H9NO3
reactant | 3-benzoyloxy-4-methoxybenzoylchloride | 14.0 g | C(C1=CC=CC=C1)(=O)OC=1C=C(C(=O)Cl)C=CC1OC | C15H11ClO4
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 2 N, 176 ml | [OH-].[Na+]
product | 4-[(3-benzyloxy-4-methoxybenzoyl)amino]-3-hydroxy-butyric acid | C(C1=CC=CC=C1)OC=1C=C(C(=O)NCC(CC(=O)O)O)C=CC1OC | C19H21NO6
